US04067873
0.74 g of Potassium is dissolved in 15 ml of absolute tert.-butanol and 4.0 g of 1,7-dichloro-4-methylisoquinoline [m.p. 90°-92°: preparable in manner analogous to that described in Helv. Chim. Acta 52 (1969) 1755-1762 for the preparation of 1,7-dichloro-3-methylisoquinoline] and 4.4 g of 3-tert.-butyl-5-hydroxymethyl-2-phenyloxazolidine are added. The solution is heated to 50° for 1 hour, whereupon it is evaporated to dryness. The product is digested in water, extracted with ether, the ether phase dried and the ether distilled off. 1-(3-tert.-Butyl-2-phenyl-5-oxazolidinyl-methoxy)-7-chloro-4-methylisoquinoline is obtained as an oil.

reactant | Potassium | 0.74 g | [K] | K
reactant | 1,7-dichloro-4-methylisoquinoline | 4.0 g | ClC1=NC=C(C2=CC=C(C=C12)Cl)C | C10H7Cl2N
reactant | 1,7-dichloro-3-methylisoquinoline | ClC1=NC(=CC2=CC=C(C=C12)Cl)C | C10H7Cl2N
reactant | 3-tert.-butyl-5-hydroxymethyl-2-phenyloxazolidine | 4.4 g | C(C)(C)(C)N1C(OC(C1)CO)C1=CC=CC=C1 | C14H21NO2
solvent | tert.-butanol | 15 ml | C(C)(C)(C)O | C4H10O
product | 1-(3-tert.-Butyl-2-phenyl-5-oxazolidinyl-methoxy)-7-chloro-4-methylisoquinoline | C(C)(C)(C)N1C(OC(C1)COC1=NC=C(C2=CC=C(C=C12)Cl)C)C1=CC=CC=C1 | C24H27ClN2O2
